US06057329
2-(2-Acetamidoethylamino)-5-nitropyridine
A suspension of 2-(2-aminoethylamino)-5-nitropyridine (5.0 g, 27.47 mmol) in carbon tetrachloride (60 ml) was treated with acetic anhydride (5.6 g, 54.9 mmol) and methanol (0.5 ml) and the resulting mixture was refluxed for 2 h then allowed to cool to room temperature. The mixture was filtered and the residue partitioned between 1M sodium hydroxide and CH2Cl2. The organic phase was dried (MgSO4) and concentrated to afford the title compound (5.03 g) as a buff solid m.p. 177-180°. MS(ES+) 225 (MH+).

reactant | 2-(2-aminoethylamino)-5-nitropyridine | 27.47 mmol, 5.0 g | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
reactant | acetic anhydride | 54.9 mmol, 5.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 0.5 ml | CO | CH4O
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2-Acetamidoethylamino)-5-nitropyridine | 5.03 g | C(C)(=O)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C9H12N4O3
